US07838498B2
Preparation of 1-(2-(allyloxy)ethoxy)-2-bromo-5-chloro-4-(4-ethylbenzyl)benzene (Intermediate AV)
To a solution of 2-(2-bromo-5-chloro-4-(4-ethylbenzyl)phenoxy)ethanol (AU) (1.85 g, 5 mmol) in anhydrous DMF (10 mL), NaH (0.36 g 15 mmol) was added in portions, and the mixture was stirred at room temperature for 2 hours. Then allyl bromide (1.82 g, 15 mmol) was added dropwise, and the mixture was heated to 45° C. overnight. The reaction was quenched with the saturated NH4Cl and the mixture was extracted with EtOAc, and then washed with water and brine. After drying with anhydrous Na2SO4, the organic portion was filtered and concentrated. The residue was purified by flash chromatography to give AV as an oil (1.74 g, yield 85%). 1H-NMR (CDCl3, 300 MHz) δ 7.31 (s, 1H), 7.13 (m, 4H), 6.94 (s, 1H), 5.94 (m, 1H), 5.26 (m, 2H), 4.14 (m, 4H), 3.96 (s, 2H), 3.84 (m, 2H), 2.64 (q, J=7.5 Hz, 2H), 1.22 (t, J=7.5 Hz, 3H).

reactant | 2-(2-bromo-5-chloro-4-(4-ethylbenzyl)phenoxy)ethanol | 5 mmol, 1.85 g | BrC1=C(OCCO)C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl | C17H18BrClO2
reactant | NaH | 15 mmol, 0.36 g | [H-].[Na+]
reactant | allyl bromide | 15 mmol, 1.82 g | C(C=C)Br | C3H5Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(2-(allyloxy)ethoxy)-2-bromo-5-chloro-4-(4-ethylbenzyl)benzene | 1.74 g, yield 85% | C(C=C)OCCOC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)CC)Br | C20H22BrClO2
